Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Abacavir Sulfate / Aspirin / fluconazole / levetiracetam / 
morphine
 
Attending: ___.
 
Chief Complaint:
fevers and diarrhea
 
Major Surgical or Invasive Procedure:
Endoscopy and Colonoscopy ___

 
History of Present Illness:
Ms ___ is a ___ with HIV/AIDS with poor medication 
compliance(CD4 24(3%), HIV VL 70K ___, depression, and hx of 
seizures, who was recently admitted with fever, non-bloody 
diarrhea, and ___ (___), who now re-presets with 
similar symptoms.  
She notes that she was in her usual state of health until 
approximately ___ when she noticed a fever to 103. She denied 
any other symptoms at that time; no sinus congestion, headache, 
body ache, sore throat, cough, shortness of breath, abdominal 
pain, nausea, vomiting, or diarrhea. She took some Tylenol and 
fever resolved. She felt very constipated so took some castor 
oil on ___. This resulted in copious non-bloody diarrhea. She 
intermittently had fever up to 102 so decided to present to the 
ED on ___, and she was admitted from ___. Her labs were 
notable for Cr of 1.8 from baseline of 0.8 just 6 days prior. 
LFTs were slightly elevated at AST/ALT of 139/42, AP 128, Tbili 
0.2. UA and CXR were negative. Extensive stools studies were 
negative. She was started empirically on ciprofloxacin and 
metronidazole which were stopped by ID recs.  
She now represents with fevers, diarrhea, nausea and mylagias. 
She reports 4 loose bowel movements in the past few days. Today 
she checked her fever which was 102 which promted the ED visit. 
She denies any sick contact or travel history. No raw food.  
 
In the ED, initial VS were 102.2 123 115/98 20 93% .  
Exam notable for: TTP in LLQ, no rebound or gaurding.  
Labs showed WBC of 7.0, H/H at baseline (11.8/34.8), plt 175. 
BMP notable for elevated Cr of 1.5 (basline 0.7-0.8), Na 137, Cl 
94. ALT: 39 AST: 111 AP: 155 Tbili: 0.3 Alb: 3.2  
Imaging showed no acute cardiopulmonary process.  
Received ceftriaxone, flagyl per ID recs, 2L NS, and tylenol 1g. 
 

 
Past Medical History:
- AIDS (resistant disease - followed by ID, Dr. ___
-- CD4 nadir 8 in ___, improved to 77 in ___
-- CD4 20 ___
-- HIV Viral Load in ___ - 159,154 copies/ml
-- Opportunistic infections: esophageal candidiasis
-- CIN II-III s/p LEEP procedure
-- several mutations listed in OMR problem list
- Depression
- Gastritis secondary to H. Pylori
- Nephrolithiasis
- Cervical spondylosis
- Migraines
- Excision of left wrist ganglion cyst ___
- Genital and vaginal condyloma
- Left carpal tunnel syndrome
- S/p open cholecystectomy
- H/o right sided Bell's palsy
- H/o diverticulitis with microperforation (patient is not clear 
of this history)
- H/o CMV esophagitis and ?colitis
 
Social History:
___
Family History:
Mother alive with a history of hypertension. Father deceased 
from stroke. Three sisters and six brothers alive. No children.

 
Physical Exam:
On Admission:
-------------
Vitals: 98.2 117/56 97 100%RA  
General: Alert, oriented, ill appearing, fatigued  
HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear 
without exudates  
Neck: Supple, no cervical or supraclavicular LAD  
CV: Regular rate and rhythm, normal S1 + S2, ___ systolic murmur 
in the apex  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended, very mild tenderness in the lower 
abdomen, bowel sounds present, no rebound or guarding  
Ext: Warm, well perfused, no edema  
Neuro: Alert and oriented x 3, CNII-XII intact  
Skin: no rashes  

At Discharge:
-------------
VS - 98 128-150/70-101 52-104 17 99% RA  
General: Alert, oriented, chronically ill-appearing woman in NAD 
 
HEENT: Sclera anicteric, MMM, oropharynx clear without exudates  

Neck: Supple, no cervical or supraclavicular LAD  
CV: Regular rate and rhythm, normal S1 + S2, ___ systolic murmur 
in the apex  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-distended, nontender, bowel sounds present, 
no rebound or guarding  
Ext: Warm, well perfused, no edema  
Neuro: Alert and oriented x 3, CNII-XII intact  
Skin: no rashes  

 
Pertinent Results:
Labs on Admission:
------------------
___ 05:00PM   WBC-7.0 RBC-3.99* HGB-11.8* HCT-34.8* MCV-87 
MCH-29.7 MCHC-34.0 RDW-15.0
___ 05:00PM   NEUTS-59 BANDS-0 ___ MONOS-14* EOS-0 
BASOS-1 ATYPS-2* ___ MYELOS-0
___ 05:00PM   PLT SMR-NORMAL PLT COUNT-175
___ 05:00PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-OCCASIONAL OVALOCYT-OCCASIONAL
___ 05:00PM   GLUCOSE-92 UREA N-23* CREAT-1.5* SODIUM-137 
POTASSIUM-4.0 CHLORIDE-94* TOTAL CO2-22 ANION GAP-25*
___ 05:00PM   ALT(SGPT)-39 AST(SGOT)-111* ALK PHOS-155* TOT 
BILI-0.3
___ 05:00PM   ALBUMIN-3.2* CALCIUM-9.1 PHOSPHATE-4.4 
MAGNESIUM-1.6
___ 05:00PM   LIPASE-57
___ 05:17PM   LACTATE-1.8

Micro Data:
-----------
All stool cultures, stains, O&P were negative.
Blood culturtes negative to date. Urine cx negative to date.
Cryptococcal antigen and toxoplasma IgG negative.
CMV Viral Load (Final ___: 984 IU/mL. 
C.difficile negative.
Cryptosporidium/ giardia negative.

Imaging Reports:
----------------
CT Abdomen/ Pelvis with contrast:
1. Small amount of free fluid in the pelvis, which may be 
physiologic. 
2. No GI abnormality to explain the patient's diarrhea 
3. Postcholecystectomy 
4. Degenerative disc L4-5 

EGD/ Colonoscopy Report:
EGD ___:
Small white plaques in mid-esophagus, ? of mild candidiasis. 
(biopsy)
Erythema and petechiae in the whole stomach compatible with mild 
gastritis (biopsy)
Normal mucosa in the duodenum (biopsy)
Otherwise normal EGD to third part of the duodenum

Colonoscopy ___:
Diverticulosis of the scattered throughout the colon
Erythema and small erosions in the left colon (biopsy)
The terminal ileum mucosa appeared normal. (biopsy)
Otherwise normal colonoscopy to cecum and terminal ileum

EGD/ COLONOSCOPY PATHOLOGY REPORT:
1. Mid esophagus:
- Active esophagitis with numerous intraepithelial lymphocytes 
and scattered eosinophils and
neutophils.
- GMS stain for fungal organisms is negative with satisfactory 
control.
2.. Gastric/stomach:
- Corpus/antral mucosa with mild chronic inactive gastritis.
- Immunostain for Helicobacter species is in progress and the 
results will be reported in a revised
report.
3. Duodenum:
- Duodenal mucosa, within normal limits.
4. Terminal ileum:
- Small intestinal mucosa, within normal limits.
5. Random colon:
- Colonic mucosa, within normal limits.
Addendum yet to be finalized by pathology at time of discharge: 
evidence of CMV on esophageal biopsies; no evidence of CMV on 
clononic biopsies.

 
Brief Hospital Course:
___ with HIV/AIDS with poor medication compliance(CD4 24(3%), 
HIV VL 70K ___, depression, and hx of seizures, who was 
recently admitted with fever, non-bloody diarrhea, and ___ 
(___), who now re-presets with similar symptoms.  

# Fevers/ Diarrhea: Most likely secondary to CMV given she had a 
positive CMV viral load to >900. Given her low CD4 status, 
differential was broad and included other opportunistic 
infections as well as non-opportunistic infections.  Less likely 
to be ischemic or inflammatory. ___ with evidence of 
esophagitis with concern for contribution from ?___ as well 
as some mild colitis in left colon, biopsies taken, revealing 
evidence of CMV in the esophagus, however, no evidence of CMV in 
the colon. She was started on IV  gancyclovir and transitioned 
to PO valgancyclovir, to complete a ___ week course, to be 
determined by outpatient ID. Also started a 14 day course of 
fluconazole, for ___ esophagitis. Ophthalmology was 
consulted, and patient was without evidence of CMV retinitis. 
All other workup, including stool studies, clultures and serum 
cryptococcal antigen were negative. Her diarrhea and fevers 
resolved and her diet was advanced without issues. Of note, 
discontinued empiric CTX/flagyl that were initially started in 
the ED given low concern for bacterial infection. All of the 
above was done in consultation with the infectious disease 
service.  
 
# Fevers: As above unifying diagnosis would be infectious 
colitis possibly from an opportunistic infection as described 
above. However given her AIDS and CMV viremia, fever could also 
represent other systemic infection. CXR without any 
consolidations. The patient did not appear septic. Infectious 
workup results detailed above. Discharged on valgancyclovir and 
fluconazole as above.  

# ___: Baseline Cr 1 which was elevated to 1.5 on admission. 
Most likely pre-renal vs ATN in the setting of diarrhea and poor 
po intake, however, given that she has remained in the 1.4 to 
1.5 range on a subacute time period, this may represent a new 
baseline. Renally dosed all medications, with changes made to 
include HIV meds that were less nephrotoxic. Avoided NSAIDS, 
contrast and other nephrotoxic meds as much as possible. 
Discharge creatinine was 1.4. 

# HIV AIDS: History of med non-complaince however currently 
reports taking her HIV meds. Cannot use Stribild given ___ For 
HIV: Discontinued Stribild. Continued with dolutegravir 50mg 
daily, darunavir 800mg PO daily, cobicistat 100mg daily, 
lamivudine 150mg PO daily per ID recs. Darunavir and cobicistat 
were prescribed as a combination pill at time of discharge. Of 
note, she does have a history of non-adherence to HAART; in the 
setting of depression she states she became tired of taking the 
medications and self-discontinued them. Her mother and brother 
are unaware of her diagnosis; sister is aware and per pt, 
provides support.   

***TRANSITIONAL ISSUES***
- history of poor adherence to HAART
- Patient should have at least yearly dilated eye exams, sooner
if any issues and this was discussed with the patient. She can
follow up at ___ or by an outside ophthalmologist.
- to complete 14 day course of PO fluconazole, end date 
___.
- to complete ___ week course of valgancyclovir (exact course to 
be determined by outpatient ID physician) (trsnaitioned to PO on 
___.
- patient with anemia, and borderline low B12, should have MMA 
checked as an outpatient (likely effect of HAART therapy). 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atovaquone Suspension 1500 mg PO DAILY 
2. Azithromycin 600 mg PO 2X/WEEK (WE,SA) 
3. Darunavir 800 mg PO DAILY 
4. Prochlorperazine 5 mg PO DAILY PRN nausea 
5. Stribild 1 TAB PO DAILY 
6. camphor-menthol 0.5 % topical bid:prn 
7. Ensure (food supplemt, lactose-reduced) 1 can oral daily 
8. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 

 
Discharge Medications:
1. Atovaquone Suspension 1500 mg PO DAILY 
2. Azithromycin 600 mg PO 2X/WEEK (WE,SA) 
3. Dolutegravir 50 mg PO DAILY 
RX *dolutegravir [___] 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1
RX *dolutegravir [___] 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1
4. Fluconazole 200 mg PO Q24H 
RX *fluconazole [Diflucan] 200 mg 1 tablet(s) by mouth daily 
Disp #*11 Tablet Refills:*0
5. LaMIVudine 150 mg PO DAILY 
RX *lamivudine [Epivir] 150 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*1
6. camphor-menthol 0.5 % topical bid:prn 
7. Ensure (food supplemt, lactose-reduced) 1 can oral daily 
8. Prochlorperazine 5 mg PO DAILY PRN nausea 
9. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID 
10. ValGANCIclovir 450 mg PO Q12H 
RX *valganciclovir 450 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
11. darunavir-cobicistat 800-150 mg-mg oral DAILY 
RX *darunavir-cobicistat [Prezcobix] 800 mg-150 mg 1 tablet(s) 
by mouth daily Disp #*30 Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
------------------
- CMV viremia
- ___ and CMV esophagitis
- fevers and diarrhea

SECONDARY DIAGNOSES:
--------------------
-AIDS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospital stay 
at ___. You came in because you 
were having fevers and diarrhea. Our infectious disease doctors 
___ and recommended a complete infectious workup. Our 
lab tests revealed that you had a virus in your blood, called 
cytomegalovirus, that may have been causing your symptoms. We 
treated you with an antiviral, called valgancyclovir, a 
medication which you should continue to take for three to six 
weeks (your doctor ___ tell you how long exactly). You should 
also continue to take fluconazole for two weeks. Your symptoms 
have resolved and it is now safe for you to be discharged. 
Please be sure to take ALL of your medications as prescribed and 
keep your follow-up appointments. We wish you the very best!

Sincerely,

Your ___ Team
 
Followup Instructions:
___